US07186732B2
4-Piperidin-1-yl methyl-phenol
A solution of 4-hydroxybenzaldehyde (10 g), piperidine (8.9 mL), and acetic acid (4.7 mL) in DCE (200 mL) was treated with sodium triacetoxyborohydride (24 g). After 16 h, the resulting mixture was treated with saturated aqueous sodium bicarbonate (100 mL) and extracted with DCM (5×100 mL). The combined organic phases were dried (magnesium sulfate) and evaporated. Trituration of the residue with ethyl acetate gave the title compound as a white crystalline solid (5.5 g).

reactant | 4-hydroxybenzaldehyde | 10 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | piperidine | 8.9 mL | N1CCCCC1 | C5H11N
reactant | sodium triacetoxyborohydride | 24 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | DCE | 200 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 4.7 mL | C(C)(=O)O | C2H4O2
product | 4-Piperidin-1-yl methyl-phenol | 5.5 g | N1(CCCCC1)C1=CC(=C(C=C1)O)C | C12H17NO
